US07465726B2
Benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride
Alternative preparation: A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (5.02 g, 15 mmol) and 1,3-benzothiazol-6-amine (2.25 g, 15 mmol) in 1-butanol (50 mL) was heated at 115° C. overnight, LC-MS showed the desired product and some de-Boc product. After the mixture was cooled to rt, it was diluted with hexane (50 mL), the gray solid was collected by filtration, a mixture of the desired product and some de-Boc product, which was directly used in the next step. To a suspension of this material in methylene chloride (30 mL) was added 4M HCl/1,4-dioxane (30 mL), the resulting mixture was stirred at rt for 5 h. The mixture was then diluted with CH2Cl2 (30 mL), and the light-yellow solid was collected by filtration and dried in vacuo.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 15 mmol, 5.02 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 1,3-benzothiazol-6-amine | 15 mmol, 2.25 g | S1C=NC2=C1C=C(C=C2)N | C7H6N2S
solvent | 1-butanol | 50 mL | C(CCC)O | C4H10O
product | Benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine trihydrochloride | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1 | InChI=1S/C18H16N6S.3ClH/c1-2-14-16(25-10-22-14)7-12(1)23-17-13-8-15(11-3-5-19-6-4-11)24-18(13)21-9-20-17;;;/h1-3,7-10,19H,4-6H2,(H2,20,21,23,24);3*1H
